US04593096
2-Amino-5-iodo-3-methyl-6-phenyl-4-pyrimidinone
To 1.8 g (8.95 mM) of 2-amino-3-methyl-6-phenyl-4-pyrimidinone was added 75 ml glacial acetic acid and 1.98 g N-iodosuccinimide (8.8 mM). The reaction mixture was heated to 70° for 5 hours. The mixture was allowed to cool to room temperature and evaporated to dryness under vacuum. The residual solid was azeotroped twice from absolute EtOH, heated to reflux with 50 ml absolute EtOH and allowed to cool to room temperature. The solids were filtered, washed well with absolute EtOH, and dried at 80° for 18 hours. Yield of yellow crystals was 1.6 g (56%).

reactant | 2-amino-3-methyl-6-phenyl-4-pyrimidinone | 8.95 mM, 1.8 g | NC1=NC(=CC(N1C)=O)C1=CC=CC=C1 | C11H11N3O
reactant | N-iodosuccinimide | 8.8 mM, 1.98 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-5-iodo-3-methyl-6-phenyl-4-pyrimidinone | NC1=NC(=C(C(N1C)=O)I)C1=CC=CC=C1 | C11H10IN3O
